US06492403B1
c) Methyl 4-cyanothiophene-2-carboxylate
To a solution of 3.82 g (17.3 mmol) methyl 4-bromothiophene-2-carboxylate (as prepared in the previous step) in 10 mL of anhyd DMF was added 3.10 g (34.6 mmol) of copper (I) cyanide. The mixture was heated to reflux with stirring for 18 h, cooled and poured into 100 mL of 10% (w/v) KCN. The mixture was extracted with EtOAc (3×60 mL) and the combined extracts were washed with 150 mL each of water and brine. The dark solution was dried over Na2SO4, treated with decolorizing carbon, filtered and the resulting colorless solution concentrated in vacuo. The resulting light yellow solid was recrystallized from MeOH to afford the title compound as a cream-colored solid (1.67 g, 58%). 1H-NMR (300 MHz, CDCl3) δ8.09 (d, 1H, J=1.4 Hz), 7.93 (d, 1H, J=1.4 Hz), and 3.93 (s, 3H). IR (film): 2235 and 1712 cm−1.

reactant | methyl 4-bromothiophene-2-carboxylate | 17.3 mmol, 3.82 g | BrC=1C=C(SC1)C(=O)OC | C6H5BrO2S
reactant | copper (I) cyanide | 34.6 mmol, 3.10 g | [Cu]C#N
reactant | KCN | [C-]#N.[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 4-cyanothiophene-2-carboxylate | 1.67 g, 58% | C(#N)C=1C=C(SC1)C(=O)OC | C7H5NO2S
